US04156693
The process, according to claim 1, which comprises reacting N,N,N-trimethyl-[3-(methylamino)]-1-propanaminium bromide with oxetane in aqueous solution at a temperature of about 100° C., thereby forming 3[N'-(3-hydroxypropyl)-N'-methylamino]-N,N,N-trimethyl-1-propanaminium bromide, reacting the latter compound with aqueous hydrochloric acid to form 3-[N'-(3-hydroxypropyl)-N'-methylamino]-N,N,N-trimethyl-1-propanaminium chloride hydrochloride, and reacting the said 3-[N'-(3-hydroxypropyl)-N'-methylamino]-N,N,N-trimethyl-1-propanaminium chloride hydrochloride with thionyl chloride to form 3-[N'-(3-chloropropyl)-N'-methylamino]-N,N,N-trimethyl-1-propanaminium chloride hydrochloride.

reactant | 3-[N'-(3-hydroxypropyl)-N'-methylamino]-N,N,N-trimethyl-1-propanaminium chloride hydrochloride | Cl.[Cl-].OCCCN(C)CCC[N+](C)(C)C
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 3-[N'-(3-chloropropyl)-N'-methylamino]-N,N,N-trimethyl-1-propanaminium chloride hydrochloride | Cl.[Cl-].ClCCCN(C)CCC[N+](C)(C)C | InChI=1S/C10H24ClN2.2ClH/c1-12(8-5-7-11)9-6-10-13(2,3)4;;/h5-10H2,1-4H3;2*1H/q+1;;/p-1
